US04532331
A suspension of 1.1 g (0.0037 mole) of 1-[3-(4-methoxyphenyl)propyl]imidazole-2-carboxylic acid hydrochloride in 100 ml of CH2Cl2 at 5° was treated with a solution of 2.8 g (0.011 mole) of BBr3 in 7 ml of CH2Cl2. The mixture was allowed to warm to 22°, and stirred for 5 hr. Methanol was cautiously added, and when a virgorous reaction was over, all solvents were evaporated. A residue was dissolved in 10 ml of H2O and the pH was adjusted to 3.5 with aqueous NaHCO3. The product crystallized, was filtered, washed with H2O and dried. Recrystallization from methanol gave 1-[3-(4-hydroxyphenyl)propyl]imidazole-2-carboxylic acid, hemihydrate, 0.65 g (71%), mp 136° (dec).

reactant | 1-[3-(4-methoxyphenyl)propyl]imidazole-2-carboxylic acid hydrochloride | 0.0037 mole, 1.1 g | Cl.COC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)O
reactant | BBr3 | 0.011 mole, 2.8 g | B(Br)(Br)Br | BBr3
reactant | Methanol | CO | CH4O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-hydroxyphenyl)propyl]imidazole-2-carboxylic acid, hemihydrate | O.OC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)O.OC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)O | InChI=1S/2C13H14N2O3.H2O/c2*16-11-5-3-10(4-6-11)2-1-8-15-9-7-14-12(15)13(17)18;/h2*3-7,9,16H,1-2,8H2,(H,17,18);1H2
